* C:\Users\You\Documents\Project-Calypso\LED_CurrentDrive.asc
V1 Vcc 0 5
D1 Vcc N001 NSSWS108T
R1 N004 0 10
M1 N001 N003 N004 N004 FDS6912A
XU1 N002 N004 Vcc 0 N003 LTC6241
V2 N002 0 0.8
.model D D
.lib C:\Users\You\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\You\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 10e-4
.lib LTC4.lib
.backanno
.end
